US07932272B2
4-(Thiophen-2-ylmethoxy)-benzylamine
In addition, to a solution of lithium aluminum hydride (220 mg, 5.80 mmol) in tetrahydrofuran (2.5 mL) was added a solution of the resulting 4-(thiophene-2-ylmethoxy)-benzonitrile (500 mg, 2.32 mmol) in tetrahydrofuran (1 mL) on an ice bath, and the solution was stirred at room temperature for 4 hours. A mixture solvent of methanol and water (9:1) was added to the reaction solution, an aqueous solution of saturated ammonium chloride was further added, the solution was extracted with ethyl acetate, dried over anhydrous magnesium sulfate, then, the solvent was evaporated to obtain the title compound (415 mg, 82%) as a colorless solid.

reactant | lithium aluminum hydride | 5.80 mmol, 220 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 4-(thiophene-2-ylmethoxy)-benzonitrile | 2.32 mmol, 500 mg | S1C(=CC=C1)COC1=CC=C(C#N)C=C1 | C12H9NOS
reactant | methanol | CO | CH4O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 2.5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 4-(Thiophen-2-ylmethoxy)-benzylamine | 415 mg, 82% | S1C(=CC=C1)COC1=CC=C(CN)C=C1 | C12H13NOS
